US04886798
Excess 3% hydrogen chloride in methanol is added to a solution of (8aR,12aS,13aS)-3-methoxy-12-methanesulfonyl-5,6,8a,9,10,11,12,12a,13,13a-decahydro-8H-isoquino[2,1-g][1,6]naphthyridine in 20 ml methanol. Diethyl ether is added until precipitation is complete. The product is filtered, washed with ether, air dried and recrystallized from methanol/acetone to yield (8aR,12aS,13aS)-3-methoxy-12-methanesulfonyl-5,6,8a,9,10,11,12,12a,13,13a-decahydro-8H-isoquino[2,1-g][1,6]naphthyridine hydrochloride.

reactant | hydrogen chloride | Cl | ClH
reactant | (8aR,12aS,13aS)-3-methoxy-12-methanesulfonyl-5,6,8a,9,10,11,12,12a,13,13a-decahydro-8H-isoquino[2,1-g][1,6]naphthyridine | COC1=CC=2CCN3C[C@H]4CCCN([C@H]4C[C@H]3C2C=C1)S(=O)(=O)C | C18H26N2O3S
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | methanol | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | (8aR,12aS,13aS)-3-methoxy-12-methanesulfonyl-5,6,8a,9,10,11,12,12a,13,13a-decahydro-8H-isoquino[2,1-g][1,6]naphthyridine hydrochloride | Cl.COC1=CC=2CCN3C[C@H]4CCCN([C@H]4C[C@H]3C2C=C1)S(=O)(=O)C | InChI=1S/C18H26N2O3S.ClH/c1-23-15-5-6-16-13(10-15)7-9-19-12-14-4-3-8-20(24(2,21)22)17(14)11-18(16)19;/h5-6,10,14,17-18H,3-4,7-9,11-12H2,1-2H3;1H/t14-,17+,18+;/m1./s1
